US09371448B2
Imidazo[1,5-a]pyridine fluorophores were prepared by adding 1 equivalent (equiv) of 3 M hydrochloric acid in ethanol (an additional equivalent of acid was used in reactions with basic substrates) and picolinaldehyde or other 2-acylpyridine to 1 equiv of a 0.5 M solution of 1 equiv of primary amine in dry ethanol or acetonitrile and 1.5 equiv of formalin. The reaction was stirred at room temperature for the specified period of time (i.e., from about 15 min to about 12 hours) and monitored by analytical thin layer chromatography (TLC) (10% methanol in DCM) for the appearance of a blue fluorescent product spot by UV light. Crude reaction mixtures were concentrated in vacuo (˜15 Torr) and dried under high vacuum at 0.2 Torr (for from 2 to 12 hours).

reactant | hydrochloric acid | 3 M, 1 equivalent | Cl | ClH
reactant | picolinaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | formalin | 1.5 equiv | C=O | CH2O
reactant | methanol | CO | CH4O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Imidazo[1,5-a]pyridine | C=1N=CN2C1C=CC=C2 | C7H6N2
